US08378104B2
Step A: 6-{7-amino-4-[1-(trans-4-{[tert-butyl(dimethyl)silyl]oxy}cyclohexyl)-1H-pyrazol-4-yl]furo[2,3-c]pyridin-2-yl}-2,3-dihydro-1H-isoindol-1-one
To a solution of 4-{1-[4-(tert-butyl-dimethyl-silanyloxy)-cyclohexyl]-1H-pyrazol-4-yl}-2-chloro-furo[2,3-c]pyridin-7-ylamine (50.0 mg, 0.112 mmol) in DME (0.894 mL) was added 6-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)isoindolin-1-one (43.5 mg, 0.168 mmol), sodium carbonate (2.0 M in water, 0.089 mL, 0.18 mmol), and Pd(PPh3)4 (20 mg, 0.02 mmol) and the reaction mixture was heated at 120° C. for 15 min in a microwave reactor. The reaction mixture was then concentrated. Purification of the residue by ISCO chromatography (0 to 5% 7 N NH3/MeOH:EtOAc) afforded 49 mg (80%) of the title compound.

reactant | 4-{1-[4-(tert-butyl-dimethyl-silanyloxy)-cyclohexyl]-1H-pyrazol-4-yl}-2-chloro-furo[2,3-c]pyridin-7-ylamine | 0.112 mmol, 50.0 mg | C(C)(C)(C)[Si](OC1CCC(CC1)N1N=CC(=C1)C1=C2C(=C(N=C1)N)OC(=C2)Cl)(C)C | C22H31ClN4O2Si
reactant | 6-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)isoindolin-1-one | 0.168 mmol, 43.5 mg | CC1(OB(OC1(C)C)C1=CC=C2CNC(C2=C1)=O)C | C14H18BNO3
reactant | sodium carbonate | 0.18 mmol, 2.0 M, 0.089 mL | C([O-])([O-])=O.[Na+].[Na+]
solvent | DME | 0.894 mL | COCCOC | C4H10O2
catalyst | Pd(PPh3)4 | 0.02 mmol, 20 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 6-{7-amino-4-[1-(trans-4-{[tert-butyl(dimethyl)silyl]oxy}cyclohexyl)-1H-pyrazol-4-yl]furo[2,3-c]pyridin-2-yl}-2,3-dihydro-1H-isoindol-1-one | 49 mg, 80% | NC=1N=CC(=C2C1OC(=C2)C2=CC=C1CNC(C1=C2)=O)C=2C=NN(C2)[C@@H]2CC[C@H](CC2)O[Si](C)(C)C(C)(C)C | C30H37N5O3Si
